US06743794B2
5-[3-(Benzoylaminomethyl)cyclohexyl]-3-methyl-4-oxo-4,5-dihydroisoxazolo[4,3-c]-quinoline-6-carboxylic Acid Methyl Ester
In a fashion similar to that described for Example 592, N-[3-(6-Iodo-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylmethyl]-benzamide (0.048 g, 0.089 mmol), acetonitrile (10 ml), MeOH (5 ml), Et3N (0.04 ml, 0.267 mmol), and PdCl2(dppf) (0.004 g, 0.004 mmol) gave the title compound (0.035 g, 83%) after column chromatography (silica gel, acetone/dichloromethane gradient). MS(FIA) (m/z) 472.3 [M−1].

reactant | N-[3-(6-Iodo-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylmethyl]-benzamide | 0.089 mmol, 0.048 g | IC1=CC=CC=2C=3C(C(N(C12)C1CC(CCC1)CNC(C1=CC=CC=C1)=O)=O)=C(ON3)C | C25H24IN3O3
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | MeOH | 5 ml | CO | CH4O
reactant | Et3N | 0.267 mmol, 0.04 ml | CCN(CC)CC | C6H15N
reactant | acetone dichloromethane | CC(=O)C.ClCCl
catalyst | PdCl2(dppf) | 0.004 mmol, 0.004 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[3-(Benzoylaminomethyl)cyclohexyl]-3-methyl-4-oxo-4,5-dihydroisoxazolo[4,3-c]-quinoline-6-carboxylic Acid Methyl Ester | 0.035 g, 83% | COC(=O)C=1C=CC=C2C=3C(C(N(C12)C1CC(CCC1)CNC(C1=CC=CC=C1)=O)=O)=C(ON3)C | C27H27N3O5
